US06821988B2
N-[4-(3-Chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-3,4-bis-(3-hydroxy-pyrrolidin-1-yl)-butyramide
N-[4-(3-Chloro-4-fluoro-phenylamino)-3-cyano-7-ethoxy-6-quinolinyl)-4-bromo-2-butenamide (150 mg, 0.3 mmol) in 0.7 mL of DMF was reacted with (R)-(+)-3-pyrrolidinol (0.2 mL, 2.4 mmol) at room temperature. After reacting for 4 hours, the reaction solution was added into saturated sodium bicarbonate solution. The resulting precipitate was filtered and washed with water and ether consecutively to give 150 mg of the title compound as a light brown solid, mp 139-143° C.; MS (ES) m/z calcd. 583.2236, found 583.2242 (M+1).

reactant | N-[4-(3-Chloro-4-fluoro-phenylamino)-3-cyano-7-ethoxy-6-quinolinyl)-4-bromo-2-butenamide | 0.3 mmol, 150 mg | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCBr)=O)OCC)C#N | C22H17BrClFN4O2
reactant | (R)-(+)-3-pyrrolidinol | 2.4 mmol, 0.2 mL | N1C[C@@H](CC1)O | C4H9NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
product | N-[4-(3-Chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-3,4-bis-(3-hydroxy-pyrrolidin-1-yl)-butyramide | 150 mg | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(CC(CN1CC(CC1)O)N1CC(CC1)O)=O)OC)C#N | C29H32ClFN6O4
